US08022206B2
Intermediate 13: tert-Butyl 4-(7-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)-6-nitrofuro[3,2-c]pyridin-3-yl)-5,6-dihydropyridine-1-(2H)-carboxylate
A mixture of 7-(1-(2,6-Dichloro-3-fluorophenyl)ethoxy)-3-bromo-6-nitrofuro[3,2-c]pyridine (12.6 g, 28.1 mmol), tert-butyl 5,6-dihydro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-1(2H)-carboxylate (9.56 g, 30.9 mmol) and dioxane/water (4:1, 120 mL/30 mL) in a 500-mL round-bottom flask was stirred and degassed with nitrogen for 15 min. To the solution, Pd(PPh3)2Cl2 (400 mg, 0.57 mmol) was added followed by potassium carbonate (5.82 g, 42.19 mmol) was added and degassed with nitrogen for another 5 min. The mixture was heated at 90-95° C. for 2.5 h. TLC (5% methanol in dichloromethane) indicated completion of the reaction. The mixture was cooled to RT, and solvent was removed on rotary evaporator. To the residue, water (60 mL) and dichloromethane (150 mL) were added. The organic layer was separated and the aqueous layer was extracted with dichloromethane (2×60 mL). All organic layers were combined and washed with brine solution (60 mL), dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with 1:1 ethyl acetate and dichloromethane to give the title compound. 1H NMR (CDCl3, 300 MHz): δ=1.45 (s, 9H), 1.95 (d, J=6.6 Hz, 3H), 2.45 (brs, 2H), 3.62 (t, J=6.0 Hz, 2H), 4.18 (t, J=3.0 Hz, 2H), 6.25 (brs, 1H), 6.63 (t, J=6.0 Hz, 1H), 7.05 (m, 1H), 7.21 (m, 1H), 7.69 (s, 1H), 8.60 (s, 1H).

reactant | 7-(1-(2,6-Dichloro-3-fluorophenyl)ethoxy)-3-bromo-6-nitrofuro[3,2-c]pyridine | 28.1 mmol, 12.6 g | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C2=C(C=NC1[N+](=O)[O-])C(=CO2)Br | C15H8BrCl2FN2O4
reactant | tert-butyl 5,6-dihydro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-1(2H)-carboxylate | 30.9 mmol, 9.56 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | potassium carbonate | 42.19 mmol, 5.82 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)2Cl2 | 0.57 mmol, 400 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane water | 120 mL | O1CCOCC1.O
product | tert-Butyl 4-(7-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)-6-nitrofuro[3,2-c]pyridin-3-yl)-5,6-dihydropyridine-1-(2H)-carboxylate | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C2=C(C=NC1[N+](=O)[O-])C(=CO2)C2=CCN(CC2)C(=O)OC(C)(C)C | C25H24Cl2FN3O6
